US06511997B1
Synthesis of 3-(4-fluorophenyl)-1-methyl-5-(phenylaminocarbonylamino)-4-(4-pyridyl)pyrazole
150 mg of 5-amino-3-(4-fluorophenyl)-1-methyl-4-(4-pyridyl)pyrazole was dissolved in 5 ml of dichloromethane. Then, 80 mg of phenyl isocyanate and 80 mg of dimethylaminopyridine were added thereto, followed by stirring at room temperature overnight. After the reaction mixture was washed with water and dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was purified by column chromatography using 20 g of silica gel and eluted with chloroform-methanol (50:1). Thus, 70 mg of the title compound was obtained and crystallized from ether.

reactant | 5-amino-3-(4-fluorophenyl)-1-methyl-4-(4-pyridyl)pyrazole | 150 mg | NC1=C(C(=NN1C)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C15H13FN4
reactant | phenyl isocyanate | 80 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | dimethylaminopyridine | 80 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-(4-fluorophenyl)-1-methyl-5-(phenylaminocarbonylamino)-4-(4-pyridyl)pyrazole | 70 mg | FC1=CC=C(C=C1)C1=NN(C(=C1C1=CC=NC=C1)NC(=O)NC1=CC=CC=C1)C | C22H18FN5O
